US08217027B2
5-(4-octylphenyl)dihydrofuran-3(2H)-one (0.8 g, 2.92 mmol) and ammonium carbonate (1.037 g, 13.12 mmol) (Aldrich) were combined in ethanol (12.05 ml) and water (12.05 ml). Potassium cyanide (0.209 g, 3.21 mmol) (Fluka) was added and the reaction heated at about 80° C. for about 16 h. Cool the reaction and add concentrated HCl until acidic (caution for HCN gas formation). The precipitate was collected by vacuum filtration and washed with water. It was suspended in methylene chloride, filtered, and washed with methylene chloride to provide 8-(4-octylphenyl)-7-oxa-1,3-diazaspiro[4.4]nonane-2,4-dione (0.545 g, 1.582 mmol, 54.3% yield) as a white solid:

reactant | 5-(4-octylphenyl)dihydrofuran-3(2H)-one | 2.92 mmol, 0.8 g | C(CCCCCCC)C1=CC=C(C=C1)C1CC(CO1)=O | C18H26O2
reactant | ammonium carbonate | 13.12 mmol, 1.037 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | Potassium cyanide | 3.21 mmol, 0.209 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | HCN | C#N | CHN
reactant | ethanol | 12.05 ml | C(C)O | C2H6O
solvent | water | 12.05 ml | O | H2O
product | 8-(4-octylphenyl)-7-oxa-1,3-diazaspiro[4.4]nonane-2,4-dione | 1.582 mmol, 0.545 g, 54.3% yield | C(CCCCCCC)C1=CC=C(C=C1)C1OCC2(C(NC(N2)=O)=O)C1 | C20H28N2O3
